US08084477B2
A suitable vessel equipped with a mechanical stirrer under a N2 atmosphere was charged with 3-fluoro-N′-hydroxy-4-methylbenzimidamide (302.52 g, 1.79 mol), triethyl orthoformate (382.5 mL, 341.1 g, 2.3 mol) and acetonitrile (1512 mL). The reaction mixture was heated to 45° C. and trifluoroacetic acid (6.72 mL, 10.08 g, 87.6 mmol) was added at this temperature. The reaction mixture was heated at 60° C. for an additional 90 minutes, then cooled to room temperature. Water (3 L) was added dropwise over a period of 60 minutes. The slurry was cooled to 4° C. and stirred at this temperature for 30 minutes. The solid was filtered and dried in vacuum at 50° C. for 12 hours to give 3-(3-fluoro-4-methylphenyl)-1,2,4-oxadiazole as a white solid (306 g, 95.6%). HPLC indicated 99.8% chemical purity. 1H-NMR (CDCl3, 400 MHz) δ8.67 (s, 1H), 7.71 (m, 2H), 7.23 (t, J=8 HZ, 1H), 2.28 (s, 3H); 13C-NMR (CDCl3, 400 MHz) δ166.9447, 164.7258, 162.5473, 160.1066, 132.0480, 132.0077, 128.5987, 122.9910, 122.9507, 114.2568, 114.0147, 14.6902. 19F-NMR (CDCl3, 400 MHz) δ−115.94, −115.96.

reactant | 3-fluoro-N′-hydroxy-4-methylbenzimidamide | 1.79 mol, 302.52 g | FC=1C=C(C(N)=NO)C=CC1C | C8H9FN2O
reactant | triethyl orthoformate | 2.3 mol, 382.5 mL, 341.1 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetonitrile | 1512 mL | C(C)#N | C2H3N
catalyst | trifluoroacetic acid | 87.6 mmol, 6.72 mL, 10.08 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | Water | 3 L | O | H2O
product | 3-(3-fluoro-4-methylphenyl)-1,2,4-oxadiazole | 306 g, 95.6% | FC=1C=C(C=CC1C)C1=NOC=N1 | C9H7FN2O
